US07645784B2
2-(1H-Benzimidazol-1-yl)-N-(3-fluoro-4-methylphenyl)acetamide
The title compound was synthesised according to the procedure described in Example 89, from 3-carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate and 3-fluoro-4-methyl-aniline. Yield 12 mg (35%). Calculated for C16H14FN3O m/z: 283.3, found 284.3 [M+H]+. 1H NMR (400 MHz, CD3OD) δ ppm 2.2 (s, 3H), 5.1 (s, 2H), 7.1 (m, 2H), 7.3 (m, 2H), 7.4 (d, J=11.6 Hz, 1H), 7.5 (d, J=8.6 Hz, 1H), 7.7 (m, 1H), 8.1 (s, 1H).

reactant | 3-carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate | FC(C(=O)[O-])(F)F.C(=O)(O)CN1C=[NH+]C2=C1C=CC=C2
reactant | 3-fluoro-4-methyl-aniline | FC=1C=C(N)C=CC1C | C7H8FN
product | 2-(1H-Benzimidazol-1-yl)-N-(3-fluoro-4-methylphenyl)acetamide | N1(C=NC2=C1C=CC=C2)CC(=O)NC2=CC(=C(C=C2)C)F | C16H14FN3O
